US09024027B2
Step 1: Preparation of methyl 2-(5-methoxy-2,3-dioxoindolin-1-yl)acetate (113)
To a solution of 5-methoxyindoline-2,3-dione (1 g, 5.64 mmol) in DMF (15 ml), K2CO3 (0.936 g, 6.77 mmol) and methyl 2-bromoacetate (0.628 ml, 6.77 mmol) were added, and the mixture was reacted under microwave irradiation for 1 hour at 100° C. Then the insoluble inorganic salts were filtered off, and the resulting crude title compound was obtained (1.6 g) and used in the next step without further purification. MS/ESI+ 250.1 [MH]+.

reactant | 5-methoxyindoline-2,3-dione | 5.64 mmol, 1 g | COC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO3
reactant | K2CO3 | 6.77 mmol, 0.936 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 2-bromoacetate | 6.77 mmol, 0.628 ml | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | methyl 2-(5-methoxy-2,3-dioxoindolin-1-yl)acetate | COC=1C=C2C(C(N(C2=CC1)CC(=O)OC)=O)=O | C12H11NO5
